US06437147B1
4,5,6,7-Tetrahydro-1H-benzimidazole-5-carboxylic acid [3-(4-chlorophenoxy)propyl]methylamide, hydrochloride
By a similar procedure as described in Example 65, the title compound was prepared from 4,5,6,7-tetrahydrobenzimidazole-5-carboxylic acid and 3-(4-chlorophenoxy)propylmethylamine.

reactant | 4,5,6,7-tetrahydrobenzimidazole-5-carboxylic acid | N1=CNC2=C1CCC(C2)C(=O)O | C8H10N2O2
reactant | 3-(4-chlorophenoxy)propylmethylamine | ClC1=CC=C(OCCCNC)C=C1 | C10H14ClNO
product | 4,5,6,7-Tetrahydro-1H-benzimidazole-5-carboxylic acid [3-(4-chlorophenoxy)propyl]methylamide, hydrochloride | Cl.ClC1=CC=C(OCCCN(C(=O)C2CC3=C(NC=N3)CC2)C)C=C1 | InChI=1S/C18H22ClN3O2.ClH/c1-22(9-2-10-24-15-6-4-14(19)5-7-15)18(23)13-3-8-16-17(11-13)21-12-20-16;/h4-7,12-13H,2-3,8-11H2,1H3,(H,20,21);1H
